US08022223B2
Step A: Preparation of tert-butyl 4-(2,2,2-trichloro-1-hydroxyethyl)piperidine-1-carboxylate:
Placed 2,2,2-trichloroacetic acid (5.746 g, 35.17 mmol) in DMF (5 mL) and added slowly sodium 2,2,2-trichloroacetate (6.519 g, 35.17 mmol). The reaction was stirred for 10 minutes and tert-butyl 4-formylpiperidine-1-carboxylate (5.00 g, 23.44 mmol) was added. The reaction was stirred for 40 minutes then quenched with saturated sodium bicarbonate and filtered. The solids were washed with water and dried. The product was triturated with water and filtered to give the title compound (5.734 g, 73.53% yield).

reactant | 2,2,2-trichloroacetic acid | 35.17 mmol, 5.746 g | ClC(C(=O)O)(Cl)Cl | C2HCl3O2
reactant | sodium 2,2,2-trichloroacetate | 35.17 mmol, 6.519 g | ClC(C(=O)[O-])(Cl)Cl.[Na+]
reactant | tert-butyl 4-formylpiperidine-1-carboxylate | 23.44 mmol, 5.00 g | C(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C11H19NO3
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-(2,2,2-trichloro-1-hydroxyethyl)piperidine-1-carboxylate | 5.734 g, 73.53% yield | ClC(C(O)C1CCN(CC1)C(=O)OC(C)(C)C)(Cl)Cl | C12H20Cl3NO3
